data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-c2ccccc2C_2-C(F)(F)F_3-c2ccc(Cl)cc2","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C(F)(F)F)=C(c2ccc(Cl)cc2)N(c2ccccc2C)c2ccccc2C"],"products_smiles": ["c1ccc2c(c1)c(C(F)(F)F)c(c2ccc(Cl)cc2)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C(F)(F)F)=C(c2ccc(Cl)cc2)N(c2ccccc2C)c2ccccc2C","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C(F)(F)F)C(c2ccc(Cl)cc2)=[N+](c2ccccc2C)c2ccccc2C","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C(F)(F)F)C(c2ccc(Cl)cc2)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C(F)(F)F)c(c2ccc(Cl)cc2)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-113_1-CCCC(C)C_2-c1ccccc1_3-C(C)(C)C_4-c1ccccc1_5-C(F)(F)F","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CCCC(C)C)#[N+][O-]","c1ccccc1/C(C(C)(C)C)=C(/c1ccccc1)C(F)(F)F"],"products_smiles": ["C1(CCCC(C)C)=NOC(c1ccccc1)(C(F)(F)F)C1(c1ccccc1)(C(C)(C)C)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CCCC(C)C)=NOC(c1ccccc1)(C(F)(F)F)C1(c1ccccc1)(C(C)(C)C)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-107_1-C#N_2-C(=O)OC_3-CC_4-c1ccccc1_5-C(C)C_6-C1CC1_7-C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C#N)(C(=O)OC)C(CC)(c1ccccc1)[N+](C(C)C)(C1CC1)C","[OH-]"],"products_smiles": ["C(=C(CC)c1ccccc1)(C#N)C(=O)OC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(CC)c1ccccc1)(C#N)C(=O)OC","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
